Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-3.90297736955
[C:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2][H:3].[C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10],4.09344056017
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11],0.4378201510800001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3][H:4],3.54844824177
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[H:4],2.51526607138
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2],6.03927271345
[C:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.4958664849000005
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]=[O:12],2.06690007646
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],3.36557126186
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],3.35010116541
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C@@:8]1([H:9])[O:10][H:11],-0.364110271439
[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@:6]1([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.965672391119
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:5],0.4781506325199999
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C@:4]([H:5])([O:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1],5.97860327597
[C:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1].[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],7.08854863148
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7]>>[C:1].[C:2]([O:3][H:4])[O:5][C:6]#[C:7],4.20265523122
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],1.90698372035
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1][O:2][C:3]([H:4])[C:10]([H:11])([H:12])[H:13],3.3869286360900004
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.81217370336
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]=[C:12]([H:13])[H:14],1.81893647623
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:5]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4][C:8]([H:6])[H:7],3.49555252856
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4],4.53943080601
[H:1][C:2]([H:3])[O:4][C:5][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](/[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.86849264753
[C:4]([H:5])([H:6])[H:7].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-4.274547676530002
[C:1].[C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[H:8]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[H:8],-3.94147888227
[H:1][C:2][C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:4][C:5],2.83383619812
